US07851475B2
3-(1H-indol-3-yl)-4-[5-(4-methyl-piperazin-1-yl)-2-nitro-phenyl]-pyrrole-2,5-dione
To a solution of 2-[5-(4-methyl-piperazin-1-yl)-2-nitro-phenyl]-acetamide (278 mg, 1.00 mmol) and (1H-indol-3-yl)-oxo-acetic acid methyl ester (366 mg, 1.80 mmol) in dry THF (8.0 mL) is added a solution of 1.0 M t-BuOK in THF (4.0 mL, 4.0 mmol) at 0° C. under argon. After stirring for 30 min at 0° C. and 1 h at RT, TLC indicates the complete consumption of the acetamide. The purple reaction mixture is partitioned between EtOAc (50 mL) and brine (50 mL), the layers are separated, and the aqueous layer is extracted with EtOAc (50 mL). The combined organic layers are dried over Na2SO4 and concentrated at reduced pressure. The crude product is purified by FCC (EtOAc/AcOH/H2O 7:1:1) to afford the title compound as its water soluble acetate salt. Orange solid. 1H NMR (DMSO-de, 400 MHz): δ 1.84 (s, 6H, CH3COO−), 1.97-2.15 (m, 4H), 2.03 (s, 3H), 2.95-3.21° (m, 4H), 6.51 (d, J=7.8 Hz, 1H), 6.54 (d, J=2.7 Hz, 1H), 6.73 (t, J=7.8 Hz, 1H), 7.01-7.07 (m, 2H), 7.41 (d, J=8.1 Hz, 1H), 8.00 (s, 1H), 8.13 (d, J=9.4 Hz, 1H), 10.8-11.4 (br, 1H), 11.95 (bs, 1H). ES+-MS: 431 [M+H]+.

reactant | 2-[5-(4-methyl-piperazin-1-yl)-2-nitro-phenyl]-acetamide | 1.00 mmol, 278 mg | CN1CCN(CC1)C=1C=CC(=C(C1)CC(=O)N)[N+](=O)[O-] | C13H18N4O3
reactant | (1H-indol-3-yl)-oxo-acetic acid methyl ester | 1.80 mmol, 366 mg | COC(C(=O)C1=CNC2=CC=CC=C12)=O | C11H9NO3
reactant | t-BuOK | 1.0 M | CC(C)(C)[O-].[K+]
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
solvent | THF | 4.0 mmol, 4.0 mL | C1CCOC1 | C4H8O
product | 3-(1H-indol-3-yl)-4-[5-(4-methyl-piperazin-1-yl)-2-nitro-phenyl]-pyrrole-2,5-dione | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=C(C=CC(=C1)N1CCN(CC1)C)[N+](=O)[O-])=O)=O | C23H21N5O4
